US04689069
2-Amino-4-ethynyl-6-methylpyrimidine
A mixture of 4.44 g of 4-(2-amino-4-methylpyrimidin-4-yl)-3-butyne-2-ol, 1 g of sodium hydroxide, 5 ml of dioxane and 50 ml of toluene was refluxed for two hours. The toluene layer was decanted from the residue, concentrated under reduced pressure and chromatographed on a silica gel dry column. The product band eluted with (2:3:0.05) ethyl acetate/dichloromethane/THF. Extraction with THF and concentration of the solvent gave 0.75 g of the title compound as a solid, 129°-130° dec.; IR(nujol) 2119(w, C≡C) cm-1 ; PMR(60 MHz, CDCl3) δ2,3(s, CH3, 3H), 3.1(s, C≡CH, 1H), 5.3-5.6(bs, NH2, 2H), 6.6(s, Het-H, 1H).

reactant | 4-(2-amino-4-methylpyrimidin-4-yl)-3-butyne-2-ol | 4.44 g | NC1=NC=CC(N1)(C)C#CC(C)O | C9H13N3O
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Amino-4-ethynyl-6-methylpyrimidine | 0.75 g | NC1=NC(=CC(=N1)C#C)C | C7H7N3
